US09102591B2
2,3-Dichloro-N-[2-cyclopropyl-2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-benzamide
From 2,3-dichlorobenzoic acid and 2-cyclopropyl-2-(6-trifluoromethyl-pyridin-3-yl)-ethylamine. LCMS (MH+): m/z=403.1, tR (minutes, Method D)=0.79

reactant | 2,3-dichlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1Cl | C7H4Cl2O2
reactant | 2-cyclopropyl-2-(6-trifluoromethyl-pyridin-3-yl)-ethylamine | C1(CC1)C(CN)C=1C=NC(=CC1)C(F)(F)F | C11H13F3N2
product | 2,3-Dichloro-N-[2-cyclopropyl-2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-benzamide | ClC1=C(C(=O)NCC(C=2C=NC(=CC2)C(F)(F)F)C2CC2)C=CC=C1Cl | C18H15Cl2F3N2O
